### PR TITLE
[Merged by Bors] - chore(Topology/Constructions): split out results about sums, products and distributivity

### PR DESCRIPTION
**Pull request by grunweg**
And move all homeomorphism related to direct sums, products and distributivity into the new file.

This resolves a large file warning. It mostly reduces transitive imports (and causes mild increases in other places, and didn't import `Homeomorph.Defs` before).
This is also necessary to break an import cycle in https://github.com/leanprover-community/mathlib4/pull/22137.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Constructions/SumProd.lean [hunk 1]
```diff
@@ -0,0 +1,987 @@
...
+theorem nhdsWithin_prod_eq (x : X) (y : Y) (s : Set X) (t : Set Y) :
+    𝓝[s ×ˢ t] (x, y) = 𝓝[s] x ×ˢ 𝓝[t] y := by
+  simp only [nhdsWithin, nhds_prod_eq, ← prod_inf_prod, prod_principal_principal]
+
+instance Prod.instNeBotNhdsWithinIio [Preorder X] [Preorder Y] {x : X × Y}
+    [hx₁ : (𝓝[<] x.1).NeBot] [hx₂ : (𝓝[<] x.2).NeBot] : (𝓝[<] x).NeBot := by
+  refine (hx₁.prod hx₂).mono ?_
+  rw [← nhdsWithin_prod_eq]
+  exact nhdsWithin_mono _ fun _ ⟨h₁, h₂⟩ ↦ Prod.lt_iff.2 <| .inl ⟨h₁, h₂.le⟩
+
```
Comment (plp127) [inline Mathlib/Topology/Constructions/SumProd.lean:256]: You seem to have skipped `Prod.instNeBotNhdsWithinIoi`.

Comment (grunweg) [reply Mathlib/Topology/Constructions/SumProd.lean:256]: Indeed, thanks for spotting! This cannot move to SumProd (since it uses the order dual construction); I have restored it in `Constructions.lean`.

File: Mathlib/Topology/Constructions/SumProd.lean [hunk 2]
```diff
@@ -0,0 +1,987 @@
+/-
+Copyright (c) 2017 Johannes Hölzl. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Johannes Hölzl, Mario Carneiro, Patrick Massot
+-/
+import Mathlib.Topology.Homeomorph.Defs
+import Mathlib.Topology.Maps.Basic
+
+/-!
+# Direct sums and products of topological spaces
```
Comment (jcommelin) [inline Mathlib/Topology/Constructions/SumProd.lean:10]:
```suggestion
# Disjoint unions and products of topological spaces
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by grunweg** [comment]
Thanks for the fast review!
bors merge

File: Mathlib/Topology/Constructions.lean [hunk 3]
```diff
@@ -288,230 +280,13 @@ end Constructions
...
-    [hx₁ : (𝓝[<] x.1).NeBot] [hx₂ : (𝓝[<] x.2).NeBot] : (𝓝[<] x).NeBot := by
-  refine (hx₁.prod hx₂).mono ?_
-  rw [← nhdsWithin_prod_eq]
-  exact nhdsWithin_mono _ fun _ ⟨h₁, h₂⟩ ↦ Prod.lt_iff.2 <| .inl ⟨h₁, h₂.le⟩
+variable [TopologicalSpace X] [TopologicalSpace Y]
 
 instance Prod.instNeBotNhdsWithinIoi [Preorder X] [Preorder Y] {x : X × Y}
     [(𝓝[>] x.1).NeBot] [(𝓝[>] x.2).NeBot] : (𝓝[>] x).NeBot :=
   Prod.instNeBotNhdsWithinIio (X := Xᵒᵈ) (Y := Yᵒᵈ)
     (x := (OrderDual.toDual x.1, OrderDual.toDual x.2))
```
Comment (plp127) [inline Mathlib/Topology/Constructions.lean:288]:
```suggestion
instance Prod.instNeBotNhdsWithinIoi [Preorder X] [Preorder Y] {x : X × Y}
    [hx₁ : (𝓝[>] x.1).NeBot] [hx₂ : (𝓝[>] x.2).NeBot] : (𝓝[>] x).NeBot := by
  refine (hx₁.prod hx₂).mono ?_
  rw [← nhdsWithin_prod_eq]
  exact nhdsWithin_mono _ fun _ ⟨h₁, h₂⟩ ↦ Prod.lt_iff.2 <| .inl ⟨h₁, h₂.le⟩
```
This proof doesn't actually need the order dual construction. Could you move it next to `Prod.instNeBotNhdsWithinIio`?

Comment (grunweg) [reply Mathlib/Topology/Constructions.lean:288]: I went ahead and includes this in #22844.

Comment (grunweg) [reply Mathlib/Topology/Constructions.lean:288]: I went ahead and included this in #22844.
